Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:4](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.5236475475799998
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:1][C:2]=[O:3],0.845206266661
[H:1][O:2][C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-3.9053303740900014
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8].[H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-4.10847741236
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.87487401933
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:7].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.43540586523
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7],5.559106172540001
[H:8].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-1.44105713211
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:13][H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.4090698176
[H:12].[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.2770870318
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],5.630710973999999
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[H:10].[H:6],1.8389757928
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.86471397534
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-4.13080712
[C:1]#[C:2][C:3]#[C:5][C:6]([H:7])[O:8][H:9].[H:4]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9],-2.20483582946
[H:1][O:2][C:3](=[O:4])/[C:10](=[C:5]/[C:6]([H:7])([H:8])[H:9])[H:11]>>[H:1][O:2][C@:3]12[O:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[C:10]2[H:11],0.920684695149
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],-5.55083917846
[C:2](#[C:3][H:4])[O:5][H:6].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][H:6],-3.69327560951
[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][O:8][H:9]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][H:9],-4.04211521589
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.19427872331
[C:2](=[C:3](\[H:4])[O:5][C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.07323060436
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-0.8440311740700001
[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.56520187329
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-4.1516590487
[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.964191702130001
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-4.015368395109999
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.99862785002
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:14]([H:15])([H:16])[H:17],1.58179866942
